US07589125B2
a) 2,2,3,3,3-Pentafluoropropyl tosylate
To a solution of 2,2,3,3,3-pentafluoropropanol (5.0 mL, 50 mmol) and pyridine (8.1 mL, 100 mmol) in chloroform (100 mL), cooled at 0° C. and under argon, tosyl chloride (14.29 g, 75 mmol) was slowly added. The resulting mixture was allowed to warm up to room temperature and was stirred at this temperature overnight. Then, 10% aqueous K2CO3 solution was added and the mixture was vigorously stirred for 30 min. The layers were separated, and the organic layer was treated again with K2CO3. After that, it was washed with 2 N HCl, dried over Na2SO4 and the solvent was removed, yielding 12.72 g of the desired compound (84% yield).

reactant | 2,2,3,3,3-pentafluoropropanol | 50 mmol, 5.0 mL | FC(CO)(C(F)(F)F)F | C3H3F5O
reactant | pyridine | 100 mmol, 8.1 mL | N1=CC=CC=C1 | C5H5N
reactant | tosyl chloride | 75 mmol, 14.29 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 2,2,3,3,3-Pentafluoropropyl tosylate | 12.72 g, 84% yield | S(=O)(=O)(OCC(C(F)(F)F)(F)F)C1=CC=C(C)C=C1 | C10H9F5O3S
